US06008229
To a solution of 1-(2,4-dichloro-3-hydroxymethylphenyl)-2-[(E)-3-[6-[(E)-2-(pyridin-4-yl)vinyl]pyridin-3-yl]acryloylaminomethyl]pyrrole (70 mg) and triethylamine (28 mg) in N,N-dimethylformamide (1 ml) was added methanesulfonyl chloride (16.7 mg) under ice-cooling, and the mixture was stirred for 30 minutes at the same temperature. To the mixture were added 3-bromo-8-hydroxy-2-methylimidazo[1,2-a]-pyridine (31.4 mg) and potassium carbonate (95.7 mg) at ambient temperature, and the mixture was stirred at the same temperature overnight. Water was added thereto, the resulting precipitates were collected by filtration. The residue was purified by preparative thin layer chromatography (chloroform:methanol=10:1, V/V) to give 1-[3-(3-bromo-2-methylimidazo[1,2-a]pyridin-8-yloxymethyl)-2,4-dichlorophenyl]-2-[(E)-3-[6-[(E)-2-(pyridin-4-yl)vinyl]-pyridin-3-yl]acryloylaminomethyl]pyrrole (76 mg) as yellow amorphous.

reactant | 1-(2,4-dichloro-3-hydroxymethylphenyl)-2-[(E)-3-[6-[(E)-2-(pyridin-4-yl)vinyl]pyridin-3-yl]acryloylaminomethyl]pyrrole | 70 mg | ClC1=C(C=CC(=C1CO)Cl)N1C(=CC=C1)CNC(\C=C\C=1C=NC(=CC1)\C=C\C1=CC=NC=C1)=O | C27H22Cl2N4O2
reactant | methanesulfonyl chloride | 16.7 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-bromo-8-hydroxy-2-methylimidazo[1,2-a]-pyridine | 31.4 mg | BrC1=C(N=C2N1C=CC=C2O)C | C8H7BrN2O
reactant | potassium carbonate | 95.7 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
solvent | triethylamine | 28 mg | C(C)N(CC)CC | C6H15N
product | 1-[3-(3-bromo-2-methylimidazo[1,2-a]pyridin-8-yloxymethyl)-2,4-dichlorophenyl]-2-[(E)-3-[6-[(E)-2-(pyridin-4-yl)vinyl]-pyridin-3-yl]acryloylaminomethyl]pyrrole | 76 mg | BrC1=C(N=C2N1C=CC=C2OCC=2C(=C(C=CC2Cl)N2C(=CC=C2)CNC(\C=C\C=2C=NC(=CC2)\C=C\C2=CC=NC=C2)=O)Cl)C | C35H27BrCl2N6O2
